* d:\esim\nor_gate\nor_gate.cir
.include NMOS-180nm.lib
.include PMOS-180nm.lib
m2 net-_m2-pad1_ a net-_m2-pad3_ net-_m2-pad3_ CMOSP
m3 vout b net-_m2-pad1_ net-_m2-pad1_ CMOSP
v1 net-_m2-pad3_ gnd  dc 5
v2  b gnd pulse(0 3.3 1u 0.1n 0.1n 4u 8u)
v3  a gnd pulse(0 3.3 1u 0.1n 0.1n 2u 4u)
* u1  a plot_v1
* u2  b plot_v1
m1 vout a net-_m1-pad3_ net-_m1-pad3_ CMOSN
m4 vout b net-_m1-pad3_ net-_m1-pad3_ CMOSN
* u3  vout plot_v1
.tran 0.1e-7 20e-06 0e-00
* Control Statements
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a)
plot v(b)
plot v(vout)
.endc
.end